Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
rib pain/fractures left ___ ribs
left ___ finger distal phalanx human bite/fracture
scalp lacerations
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is a ___ year old gentleman assaulted and stabbed right 
anterior chest wall. Patient also reported falling and hitting 
the back of his head on train
tracks ___. He also sustained a human bite to his Left ___ 
finger
distal phalanx. He sustained ___ rib fractures. He received 
sutures and
volar hand splint for finger ___. Patient had sutures for scalp 
laceration ___.
 
Past Medical History:
- seziure d/o since age ___ s/p right temporal lobectomy who p/w
unsteadiness
- sustained a right distal radius fracture in ___ after falling
while trying to jump over handicap rail at a train station.  He
has been wearing a cast
- known history of gait instability in the absence of truncal or
___ ataxia; he has been referred to the ED in the past and has
been seen by the neurology staff on numerous occasions regarding
his unsteadiness.
-  seizure disorder
> described as "petit mal"
> followed by ___ in neurology
> onset @ age ___ yo possibly secondary to meningitis at 6 mo.  
> meds: dilantin, phenobarbital, mysoline, tegretol
> s/p right temporal lobectomy in ___ with subsequent left
homonymous hemianopsia

 
Social History:
___
Family History:
no seizure
 
Physical Exam:
PHYSICAL EXAMINATION: Upon admission ___
 
HR: 80 BP: 152/105 Resp: 12 O(2)Sat: 100
 
Constitutional: Comfortable
HEENT: Small laceration on the occiput
Oropharynx within normal limits, no midline C-spine
tenderness
Chest: Clear to auscultation, superficial wound left
anterior chest
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender
Skin: No rash
Neuro: Speech fluent
Psych: Normal mood, Normal mentation
___: No petechiae

PHYSICAL EXAMINATION: Upon discharge ___
 
HR:  
Constitutional: Comfortable
HEENT: Small laceration on the occiput intact with sutures 
without drainage or erythema. Oropharynx within normal limits, 
no midline C-spine
tenderness
Chest: Clear bilaterally, superficial wound left
anterior chest
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender
Skin: No rash
Ext: Left volar splint applied, sensation intact distally, no 
discoloration, no numbness or tingling, left hand is tender to 
touch over splint, no swelling or tenderness of the lower 
extremities. Palpable pedal pulses bilaterally.
Neuro: Speech fluent
Psych: Normal mood, Normal mentation
___: No petechiae

 
Pertinent Results:
___ 10:50PM   PO2-65* PCO2-23* PH-7.54* TOTAL CO2-20* BASE 
XS-0 COMMENTS-GREEN TOP
___ 10:50PM   GLUCOSE-89 LACTATE-4.4* NA+-136 K+-5.8* 
CL--104
___ 10:50PM   HGB-13.9* calcHCT-42 O2 SAT-93 CARBOXYHB-2 
MET HGB-0
___ 10:50PM   freeCa-0.97*
___ 10:45PM   UREA N-19 CREAT-1.0
___ 10:45PM   estGFR-Using this
___ 10:45PM   LIPASE-67*
___ 10:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-POS tricyclic-NEG
___ 10:45PM   WBC-6.9 RBC-4.58* HGB-13.6* HCT-42.1 MCV-92 
MCH-29.7 MCHC-32.4 RDW-12.4
___ 10:45PM   ___ PTT-23.6* ___
___ 10:45PM   PLT COUNT-195
___ 10:45PM   ___

Radiology Report CT HEAD W/O CONTRAST Study Date of ___  
IMPRESSION:  
1. Encephalomalacia in the right temporal lobe with overlying 
likely 
postoperative changes. However, small subdural hemorrhage in 
this area cannot be excluded. Correlation with penetrating 
injury in this area is recommended. A short-term followup may be 
obtained for further evaluation, or comparison with priors may 
be pursued. 
2. Paranasal sinus disease. 
  
Radiology Report HAND (AP, LAT & OBLIQUE) LEFT Study Date of 
___  
IMPRESSION:  Obliquely oriented fracture through the second 
distal tuft.  No other definite fracture. No radiopaque foreign 
body. 
  
Radiology Report ELBOW (AP, LAT & OBLIQUE) LEFT Study Date of 
___  
There is no fracture or dislocation. There is no suspicious 
osseous lesion. There is no joint effusion. There is no soft 
tissue swelling or radiopaque foreign body. 

 
Brief Hospital Course:
___ RHD who, after being mugged and stabbed alongside a railroad
track while minding his own business, presented to ___ and was
found to have a nondisplaced tuft fracture of the distal phalanx
of the index finger immediately subjacent to a human bite wound.
Orthopaedic hand surgery consulted. A hand splint was placed at 
that time. ___ was consulted to evaluate for discharge home. 
Unfortunately at this time, he was unstable, likely secondary to 
a remote TBI, seizures, and temporal lobectomy. At that time, it 
was recommended that he go to a rehab facility. Has has remained 
stable throughout his hospital course, with no acute issues. He 
has ambulated with ___ and nursing, and is alert and oriented.  

 
Medications on Admission:
carbamazepine ER 200", carbamazepine ER 300", finasteride 5', 
naproxen 500", primidone 750', tamsulosin ER 0.8', ASA 81'
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Carbamazepine (Extended-Release) 500 mg PO BID 
3. Finasteride 5 mg PO DAILY 
4. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone [Oxecta] 5 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*10 Tablet Refills:*0
5. PrimiDONE 250 mg PO HS 
6. PrimiDONE 500 mg PO QAM 
7. Tamsulosin 0.8 mg PO HS 
8. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 2 Weeks 
RX *amoxicillin-pot clavulanate [Augmentin] 875 mg-125 mg 875 mg 
by mouth every twelve (12) hours Disp #*28 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Finger fracture
 
Discharge Condition:
Good with pain control. Tolerating regular diet and ambulatory.
 
Discharge Instructions:
You were treated by the Acute Care Surgery service at ___ 
___. You have multiple lacerations 
(cuts) on your body, rib fractures, and a left index fingertip 
fracture from a bite. You will need to be on antibiotics for 
this.

Please take your antibiotics as prescribed for 2 weeks.
You will also be received oxycodone for your injury. DO NOT 
DRINK ALCOHOL with this medication! Also do not drive a car or 
any machinery while taking this.

Go to your physician or the nearest Emergency Department if your 
condition worsens or you have any concerns.
Some warning signs are increased redness, fevers, chills, or any 
other concern. Follow up with your doctor in ___ days to 
reevaluate your finger. 

Rib Fractures:

* Your injury caused 5 rib fractures which can cause severe pain 
and subsequently cause you to take shallow breaths because of 
the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).
 
Followup Instructions:
___